### PR TITLE
Prove eval_list_sort_is_correct

### PR DESCRIPTION
**Pull request by Nielius**
Proof of `eval_list_sort_is_correct`. Tree-version coming soon (hopefully)!

### CODE REVIEW

**Comment by Nielius** [comment]
I've now also added a proof for the trees.

(Btw, I'm not sure what the standard workflow for open source projects on Github is; should I just merge this when you approve it?)

**Comment by awalterschulze** [comment]
Let’s wait for one approval before merging

I will look at it tonight or tomorrow

File: reorder.v [hunk 1]
```diff
@@ -101,15 +101,48 @@ induction xs.
   reflexivity.
 Qed.
 
-(* eval_list_sort_is_correct shows that
-   eval_list_sort is equivalent to eval_list
-*)
+Lemma eval_list_and_insert
```
Comment (paulcadman) [inline reorder.v]: Suggested refinement:

```coq
Lemma eval_list_and_insert
  : forall (x: X) (xs: list X)
  , eval_list (x::xs) = eval_list (insert x xs).
Proof.
  induction xs as [| y ys IH].
  - unfold insert. reflexivity.
  - remember (compare x y).
    induction c.
    + simpl; rewrite <- Heqc; reflexivity.
    + simpl; rewrite <- Heqc; reflexivity.
    + simpl.
      rewrite <- Heqc.
      simpl.
      rewrite <- IH.
      simpl.
      rewrite <- proof_assoc.
      rewrite <- proof_assoc.
      rewrite <- (proof_comm x y).
      reflexivity.
Qed.
```

File: reorder.v [hunk 2]
```diff
@@ -148,9 +182,79 @@ Fixpoint to_tree (xs: list X) : tree X :=
...
+  - simpl (eval_tree (bin _ _)).
+    simpl (to_list _).
+    simpl (eval_list _).
+    rewrite eval_list_concatenation.
+    rewrite IHxs1.
+    rewrite IHxs2.
+    reflexivity.
+Qed.
+
+Lemma to_list_to_tree
```
Comment (paulcadman) [inline reorder.v]: I did this one a different way trying to reduce the number of unfolds.

First a couple of Lemmas that are true by definition that make it easier to deal with the induction steps:

```coq
Lemma eval_list_step
  : forall (xs : list X) (a : X)
  , eval_list (a :: xs) = Op a (eval_list xs).
Proof.
  reflexivity.
Qed.

Lemma to_tree_step
  : forall (xs : list X) (a1 a2 a3: X)
  , to_tree (a1 ::  a2 :: a3 :: xs) = bin (value a1) (to_tree (a2 :: a3 :: xs)).
Proof.
  reflexivity.
Qed.
```

Then the actual proof, nested induction is needed because of the statement of `to_tree_step`.

```coq
Lemma to_list_to_tree
  : forall (xs : list X)
  , eval_list (to_list (to_tree xs)) = eval_list xs.
Proof.
  induction xs.
  - simpl.
    rewrite proof_id.
    reflexivity.
  - induction xs.
    + simpl.
      rewrite proof_id.
      reflexivity.
    + induction xs.
      * simpl.
        rewrite <- proof_assoc.
        reflexivity.
      * rewrite to_tree_step.
        rewrite eval_list_step.
        rewrite <- IHxs.
        reflexivity.
Qed.
```

Comment (paulcadman) [reply reorder.v]: Yes - I'll do that. Great idea!

**Comment by awalterschulze** [comment]
@Nielius please add yourself to the AUTHORS file as you are now also an author, since this has been merged :)
